US07119113B2
5-Trifluoromethyl-oxazol-2-ylamine: The 5-trifluoromethyl-oxazol-2-ylamine, off-white solid and MS: m/e=152.0 (M+), is obtained using the following procedure: To a solution of 21.6 ml (39.4 g, 0.2 mol) of 97% 3-bromo-1,1,1-trifluoroacetone in 40 ml of tert-butanol are added 12.6 g (0.3 mol, 1.5 equiv.) of cyanamide. A slight exotherm is observed. After stirring for 10 min, 19.7 g (0.24 mol, 1.2 equiv.) of finely powdered sodium acetate were added with vigorous stirring and the suspension is heated for 30 min at 65° C., refluxed for 2 h and then allowed to cool. The mixture is poured into a well stirred mixture of 200 ml of ethyl acetate and 100 ml of water. The pH of the aqueous phase is set to ca. 8-9 with 5% sodium bicarbonate solution. The org. phase is separated. The aqueous phase is extracted with 50 ml ethyl acetate. The combined organic phases were washed twice with 20 ml of water and concentrated in vacuo. The residue, 40.2 g, viscous light orange oil, is then purified by flash chromatography on silica gel using a 2:1 mixture of methylene chloride and ethyl acetate as eluent. The fractions containing the desired compound (6.08 g, light yellow oil) and containing more polar impurities were concentrated and repurified by flash chromatography on silica gel using a 98:2 mixture of methylene chloride and methanol as eluant. One obtains 1.83 g (0.012 mol, 6%) of 5-trifluoromethyl-oxazol-2-ylamine.

reactant | 3-bromo-1,1,1-trifluoroacetone | 0.2 mol, 21.6 ml, 39.4 g | BrCC(C(F)(F)F)=O | C3H2BrF3O
reactant | cyanamide | 0.3 mol, 12.6 g, 1.5 equiv. | N#CN | CH2N2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tert-butanol | 40 ml | C(C)(C)(C)O | C4H10O
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 5-trifluoromethyl-oxazol-2-ylamine | 0.012 mol, 1.83 g, 6% | FC(C1=CN=C(O1)N)(F)F | C4H3F3N2O
